US05990116
3-(2,6-Dimethoxybenzyl)-6-(2,5-dimethoxybenzyloxy)-3H-quinazolin-one (process c)
12 mg of sodium hydride (80% in mineral oil) are added to a solution of 115 mg of 3-(2,6-dimethoxybenzyl)-6-hydroxy-3H-quinazolin-4-one in 10 ml of dry dimethylformamide. After stirring for 30 minutes at room temperature, 85 mg of 2,5-dimethoxybenzylbromide are added, and stirring is continued overnight. The solvent is distilled off in vacuo, and the residue partitioned between aqueous pH7-buffer solution and ethyl acetate. The organic phase is separated, dried over magnesium sulfate and evaporated in vacuo. The pure title compound is obtained after silica gel chromatography (toluene/ethyl acetate=2/1) as colourless crystals. mp: 148-150°.

reactant | sodium hydride | 12 mg | [H-].[Na+]
reactant | 3-(2,6-dimethoxybenzyl)-6-hydroxy-3H-quinazolin-4-one | 115 mg | COC1=C(CN2C=NC3=CC=C(C=C3C2=O)O)C(=CC=C1)OC | C17H16N2O4
reactant | 2,5-dimethoxybenzylbromide | 85 mg | COC1=C(CBr)C=C(C=C1)OC | C9H11BrO2
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-(2,6-Dimethoxybenzyl)-6-(2,5-dimethoxybenzyloxy)-3H-quinazolin-one | COC1=C(CN2C(N=C3C=CC(=CC3=C2)OCC2=C(C=CC(=C2)OC)OC)=O)C(=CC=C1)OC | C26H26N2O6
